US06759554B2
N,N-bis-(3,5-Dimethylphenyl)-1,2-trans-cyclohexanediamine
An oven-dried resealable Schlenk tube was charged with CuI (40 mg, 0.210 mmol), K3PO4 (1.30 g, 6.12 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (240 μL, 2.00 mmol), 5-iodo-m-xylene (900 μL, 6.24 mmol) and 2-methoxyethyl ether (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 140° C. for 24 h. The resulting dark brown suspension was cooled to room temperature and filtered through a 2×1 cm pad of Celite eluting with 50 mL of dichloromethane. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; chloroform—chloroform saturated with aq NH3—methanol 40:40:1; 15 mL fractions). Fractions 7-14 provided 465 mg (72% yield) of the product as a tan solid. 1H NMR (400 MHz, CDCl3): δ 6.67 (s, 1H), 6.57 (s, 2H), 3.65−3.55 (m, 1H), 2.68−2.58 (m, 1H), 2.28 (s, 12H), 2.08−1.92 (m, 2H), 1.83−1.64 (m, 2H), 1.58−1.10 (m, 6H).

reactant | K3PO4 | 6.12 mmol, 1.30 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 2.00 mmol, 240 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 5-iodo-m-xylene | 6.24 mmol, 900 μL | IC=1C=C(C=C(C1)C)C | C8H9I
catalyst | CuI | 0.210 mmol, 40 mg | [Cu]I
solvent | 2-methoxyethyl ether | 1.0 mL | COCCOCCOC | C6H14O3
product | N,N-bis-(3,5-Dimethylphenyl)-1,2-trans-cyclohexanediamine | 465 mg, 72% yield | CC=1C=C(C=C(C1)C)N([C@H]1[C@@H](CCCC1)N)C1=CC(=CC(=C1)C)C | C22H30N2
